US07157487B2
Methyl 3-hydroxy-4-aminophenylacetate (2.97 g, 16.4 mmol) was dissolved in methanol (30 ml). Under stirring at room temperature, 2-bromophenyl isothiocyanate (2.65 ml, 19.7 mmol) was added to the resulting solution. The reaction mixture was then stirred at room temperature for 1.5 hours. Mercuric oxide (yellow) (3.55 g, 16.4 mmol) was added to the reaction mixture, followed by heating and refluxing for 50 minutes. After cooling the reaction mixture to room temperature, the insoluble matter was filtered off through Celite under reduced pressure. The filtrate was distilled under reduced pressure to remove the solvent. The residue was then purified by chromatography on a silica gel column, whereby from hexane-ethyl acetate (4:1) eluate fractions, ethyl 2-(2-bromophenylamino)-6-benzoxazolylacetate (3.87 g, 66%) was obtained as a colorless solid.

reactant | Methyl 3-hydroxy-4-aminophenylacetate | 16.4 mmol, 2.97 g | OC=1C=C(C=CC1N)CC(=O)OC | C9H11NO3
reactant | 2-bromophenyl isothiocyanate | 19.7 mmol, 2.65 ml | BrC1=C(C=CC=C1)N=C=S | C7H4BrNS
reactant | methanol | 30 ml | CO | CH4O
product | ethyl 2-(2-bromophenylamino)-6-benzoxazolylacetate | 3.87 g, 66% | BrC1=C(C=CC=C1)NC=1OC2=C(N1)C=CC(=C2)CC(=O)OCC | C17H15BrN2O3
